US07812040B2
cis-3-[(Benzylamino)methyl]cyclobutanol.
A solution of intermediate 26 N-Benzyl-3-oxocyclobutanecarboxamide (9.5 g, 0.046 mol) in absolute THF (50 mL) was added to a suspension of LiAlH4 (3.55 g, 0.093 mol) in absolute THF (50 ml) under stirring in argon. The mixture was refluxed under stirring for 1 h and cooled. Then 10 N NaOH (10 mL) and water (5 mL) were added. The organic layer was decanted, and the aqueous one was extracted with THF (2×50 mL). The organic layers were evaporated to give the title compound (7.4 g, 83%) as a yellow oil. 1H NMR-data (DMSO-d6): 7.00-7.49 (m, 6H, NH, Ph); 4.80 (br.s, 1H, OH); 3.81-3.95 (m, 1H); 3.67 (s, 2H, CH2); 2.48 (d, 2H, CH2, J=6.8 Hz); 2.19-2.30 (m, 2H); 1.70-1.84 (m, 1H); 1.35-1.50 (m, 2H).

reactant | N-Benzyl-3-oxocyclobutanecarboxamide | 0.046 mol, 9.5 g | C(C1=CC=CC=C1)NC(=O)C1CC(C1)=O | C12H13NO2
reactant | LiAlH4 | 0.093 mol, 3.55 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 10 N, 10 mL | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | cis-3-[(Benzylamino)methyl]cyclobutanol | 7.4 g, 83% | C(C1=CC=CC=C1)NC[C@H]1C[C@H](C1)O | C12H17NO
